US06066736
Synthesis of 3-methoxypyrazine-2-carboxamide
Under argon, 1 g (10.1 mmol) of 2-amino-2-cyanoacetamide was initially charged in 10 g of methanol. 0.25 g (1.4 mmol) of sodium methoxide solution (30%) was added and the mixture was stirred at 20° C. for 2 hours. After neutralization with 0.084 g (1.4 mmol) of acetic acid, 2.27 g (20 mmol) of glyoxal solution (40%) was added. The mixture was stirred at 20° C. for 2 hours and then at 50° C. for 2 hours. The solvent was distilled off. This gave 0.75 g of 3-methyoxypyrazine-2-carboxamide. The yield was 50 percent. Other data concerning the title product was:

reactant | 2-amino-2-cyanoacetamide | 10.1 mmol, 1 g | NC(C(=O)N)C#N | C3H5N3O
reactant | sodium methoxide | 1.4 mmol, 0.25 g | C[O-].[Na+]
reactant | acetic acid | 1.4 mmol, 0.084 g | C(C)(=O)O | C2H4O2
reactant | glyoxal | 20 mmol, 2.27 g | C(=O)C=O | C2H2O2
solvent | methanol | 10 g | CO | CH4O
product | 3-methoxypyrazine-2-carboxamide | yield was 50 percent | COC=1C(=NC=CN1)C(=O)N | C6H7N3O2
